US05290789
Potassium hydride (3.8 g, 33 mmol) was washed with dry hexane (2×10 mL) and suspended in THF (60 mL) under a nitrogen atmosphere and 1,2,3,4-tetramethyl-3-piperidinepropanol (6.0 g, 30 mole) in THF (50 mL) was added dropwise over 10 minutes. The mixture was stirred at room temperature for 45 minutes then approximately 5 mole percent of tetrabutylammonium iodide, followed by cyclopropylmethyl bromide (4.5 g, 33 mmol) in THF (20 mL) was added. The mixture was stirred for 24 hours, diluted with ether and washed with brine (3×50 mL]. The organic layer was separated, dried over Na2SO4 and concentrated in vacuo. The residue was combined with additional crude 3-[3-(cyclopropylmethoxy)propyl)1,2,3,4-tetramethylpiperidine which was obtained from a similar experimental run but starting with 1.0 g of 1,2,3,4-tetramethyl-3-piperidinepropanol, and the mixture was purified by column chromatography on silica eluting with 10% ether/hexanes to 1% isopropylamine/10% ether/hexanes to afford 3.8 g(50%) of 3-[3-(cyclopropylmethoxy)propyl]1,2,3,4-tetramethylpiperidine. The product was dissolved in ethanol, treated with 7.2 U ethereal·HCl and diluted with ether to afford 3.2 g of the hydrochloride salt as a cream colored solid. The salt was recrystallized from ethanol/ether and had a melting point of 127-128° C.

reactant | Potassium hydride | 33 mmol, 3.8 g | [H-].[K+]
reactant | 1,2,3,4-tetramethyl-3-piperidinepropanol | 30 mole, 6.0 g | CN1C(C(C(CC1)C)(CCCO)C)C | C12H25NO
reactant | cyclopropylmethyl bromide | 33 mmol, 4.5 g | C1(CC1)CBr | C4H7Br
reactant | 1,2,3,4-tetramethyl-3-piperidinepropanol | 1.0 g | CN1C(C(C(CC1)C)(CCCO)C)C | C12H25NO
solvent | hexane | 10 mL | CCCCCC | C6H14
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-[3-(cyclopropylmethoxy)propyl]1,2,3,4-tetramethylpiperidine | 3.8 g, 50% | C1(CC1)COCCCC1(C(N(CCC1C)C)C)C | C16H31NO
